US05614544
A toluene solution of diisobutylaluminum hydride (1.5 M, 17 ml) was added drop by drop to a suspension of ethyl (E)-4-[2-[5-methyl-2-(2-naphthyl)4-oxazolyl]vinyl]cinnamate (4.20 g) in dichloromethane (100 ml) at 0° C. After the mixture was stirred at room temperature for 4 hours, methanol (2 ml) and then water (6 ml) were added at 0° C. After the insoluble substances were filtered off, the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel chromatography to yield a crystal of (E,E)-3-[4-[2-[5-methyl-2-(2-naphthyl)-4-oxazolyl]vinyl]phenyl]-2-propenol from the fraction eluted with ethyl acetate-chloroform (5:95, v/v), which was then recrystallized from chloroform-ethanol to yield light yellow prisms (3.04 g, 81%) having a melting point of 184°-185° C.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 1.5 M, 17 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl (E)-4-[2-[5-methyl-2-(2-naphthyl)4-oxazolyl]vinyl]cinnamate | 4.20 g | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)C=CC1=CC=C(/C=C/C(=O)OCC)C=C1 | C27H23NO3
reactant | methanol | 2 ml | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 6 ml | O | H2O
product | (E,E)-3-[4-[2-[5-methyl-2-(2-naphthyl)-4-oxazolyl]vinyl]phenyl]-2-propenol | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)/C=C/C1=CC=C(C=C1)/C=C/CO | C25H21NO2
